US05359076
8-Methylsulfonyl-1,2,3,4-tetrahydro-2-trifluoromethylquinoline-6-acetic acid
Into 20 ml of 1N sodium hydroxide were dissolved 250 mg of 8-methylthio-1,2,3,4-tetrahydro-2-trifluoromethylquinoline-6-acetic acid and 300 mg of 8-methylsulfinyl-1,2,3,4-tetrahydro-2-trifluoromethylquinoline-6-acetic acid, and, after 10 ml of 35% aqueous hydrogen peroxide were added, the mixture was stirred at room temperature for 3 hours. To this were added 50 ml of water, and the reaction mixture was brought to pH2 with concentrated hydrochloric acid. The crystals deposited were collected by filtration, washed with water and dried to obtain 220 mg of white crystals. Further, the aqueous layer was extracted with ethyl acetate, dried over anhydrous sodium sulfate and then solvent was distilled off to obtain 360 mg of faintly yellow crystals. When recrystallizing from ethyl acetate, the crystals obtained give a melting point of 124°-125° C.

reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | 8-methylthio-1,2,3,4-tetrahydro-2-trifluoromethylquinoline-6-acetic acid | 250 mg | CSC=1C=C(C=C2CCC(NC12)C(F)(F)F)CC(=O)O | C13H14F3NO2S
reactant | 8-methylsulfinyl-1,2,3,4-tetrahydro-2-trifluoromethylquinoline-6-acetic acid | 300 mg | CS(=O)C=1C=C(C=C2CCC(NC12)C(F)(F)F)CC(=O)O | C13H14F3NO3S
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 8-Methylsulfonyl-1,2,3,4-tetrahydro-2-trifluoromethylquinoline-6-acetic acid | 220 mg | CS(=O)(=O)C=1C=C(C=C2CCC(NC12)C(F)(F)F)CC(=O)O | C13H14F3NO4S
